US08426447B2
2-fluoro-5-methylphenol (23.8 g, 0.19 mol) and bromine (9.7 ml, 0.19 mol) are combined in 50 ml of glacial acetic acid and stirred at RT for one hour. Acetic acid was removed under vacuum. The liquid was diluted with ethyl acetate and washed with water. The organic layer was washed with brine, dried over anhydrous sodium sulfate, filtered and concentrated to afford 4-bromo-2-fluoro-5-methylphenol (38 g, 98% yield) as a colorless liquid. No [M+H] peak by LCMS. 1H NMR (400 MHz, CHLOROFORM-d) ppm 1.98 (s, 1H) 2.22 (s, 3H) 6.81 (dd, J=9.15, 0.54 Hz, 1H) 7.17 (d, J=9.88 Hz, 1H)

reactant | 2-fluoro-5-methylphenol | 0.19 mol, 23.8 g | FC1=C(C=C(C=C1)C)O | C7H7FO
reactant | bromine | 0.19 mol, 9.7 ml | BrBr | Br2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4-bromo-2-fluoro-5-methylphenol | 38 g, 98% yield | BrC1=CC(=C(C=C1C)O)F | C7H6BrFO
